US09062032B2
To a mixture of 50.1 g of methyl 4-[(E)-2-(4-nitrophenyl)vinyl]benzoate, 600 mL of THF, and 200 mL of N,N-dimethylformamide (DMF) was added 10.3 g of 10% palladium carbon (wetted with 55% H2O), followed by stirring for 8 hours at room temperature in a hydrogen atmosphere (1 atm). The inside of the reaction vessel was purged with argon, and then the insoluble material was removed by filtration by using celite. The filtrate was concentrated under reduced pressure, and 1000 mL of water was added to the residue, followed by stirring for 30 minutes at room temperature. The precipitate was collected by filtration, thereby obtaining 44.0 g of methyl 4-[2-(4-aminophenyl)ethyl]benzoate.

reactant | methyl 4-[(E)-2-(4-nitrophenyl)vinyl]benzoate | 50.1 g | [N+](=O)([O-])C1=CC=C(C=C1)/C=C/C1=CC=C(C(=O)OC)C=C1 | C16H13NO4
reactant | THF | 600 mL | C1CCOC1 | C4H8O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 10.3 g | [C].[Pd]
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | methyl 4-[2-(4-aminophenyl)ethyl]benzoate | 44.0 g | NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C16H17NO2
